.INCLUDE 22nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18
.INCLUDE AND.sub
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n
.PARAM SUPPLY=0.8
.global vdd gnd

VDS vdd gnd 'SUPPLY'

*Vin1 Va gnd pulse 0 'SUPPLY' 0ns 1ps 1ps 1000ps 2000ps
*Vin2 Vb gnd dc 'SUPPLY'
*Vin3 Vc gnd dc 'SUPPLY'
*Vin4 Vd gnd dc 'SUPPLY'

*Vin1 Va gnd dc 'SUPPLY'
*Vin2 Vb gnd pulse 0 'SUPPLY' 0ns 1ps 1ps 1000ps 2000ps
*Vin3 Vc gnd dc 'SUPPLY'
*Vin4 Vd gnd dc 'SUPPLY'

*Vin1 Va gnd dc 'SUPPLY'
*Vin2 Vb gnd dc 'SUPPLY'
*Vin3 Vc gnd pulse 0 'SUPPLY' 0ns 1ps 1ps 1000ps 2000ps
*Vin4 Vd gnd dc 'SUPPLY'

*Vin1 Va gnd dc 'SUPPLY'
*Vin2 Vb gnd dc 'SUPPLY'
*Vin3 Vc gnd dc 'SUPPLY'
*Vin4 Vd gnd pulse 0 'SUPPLY' 0ns 1ps 1ps 1000ps 2000ps


X1 Va Vb Vc Vd Vout vdd gnd AND 

Cqload Vout gnd 1f

.tran 0.1ps 3600ps

*.measure tran delay_LH TRIG v(Va) VAL = 'SUPPLY/2' FALL =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE =1 
*.measure tran delay_HL TRIG v(Va) VAL = 'SUPPLY/2' RISE =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE=1

*.measure tran delay_LH TRIG v(Vb) VAL = 'SUPPLY/2' FALL =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE =1 
*.measure tran delay_HL TRIG v(Vb) VAL = 'SUPPLY/2' RISE =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE=1

*.measure tran delay_LH TRIG v(Vc) VAL = 'SUPPLY/2' FALL =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE =1 
*.measure tran delay_HL TRIG v(Vc) VAL = 'SUPPLY/2' RISE =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE=1

*.measure tran delay_LH TRIG v(Vd) VAL = 'SUPPLY/2' FALL =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE =1 
*.measure tran delay_HL TRIG v(Vd) VAL = 'SUPPLY/2' RISE =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE=1


.CONTROL
dc TEMP 85 85 85
run
*print V(Va) V(Vb) V(Vc) V(Vd) V(Vout)
quit
.ENDC
.END